US05959107
After a mixture of 5-isoquinolinesulfonyl chloride 1.58 g (7.0 mmol), sodium sulfite 880 mg (7.0 mmol) and water 10 ml was heated and refluxed for 1 hour, the reaction mixture was concentrated under reduced pressure. Ethanol was added to the resulting residue to filter off insoluble materials, and the filtrate was concentrated under reduced pressure to give sodium 5-isoquinolinesulfinate 375 mg (25.0%).

reactant | 5-isoquinolinesulfonyl chloride | 7.0 mmol, 1.58 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | sodium sulfite | 7.0 mmol, 880 mg | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 10 ml | O | H2O
product | sodium 5-isoquinolinesulfinate | 375 mg, 25.0% | C1=NC=CC=2C(=CC=CC12)S(=O)[O-].[Na+] | InChI=1S/C9H7NO2S.Na/c11-13(12)9-3-1-2-7-6-10-5-4-8(7)9;/h1-6H,(H,11,12);/q;+1/p-1
